US07807709B2
B. (3R,4R)-3-[(Cyclopropyl-phenylacetyl-amino)-methyl]-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester
To a solution of (3R,4R)-3-cyclopropylaminomethyl-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (0.30 g, 0.56 mmol) in CH2Cl2 (6 mL) are subsequently added Et3N (0.094 mL, 0.67 mmol), 1-hydroxy-benzotriazol hydrate (0.09 g, 0.67 mmol), N-(3-dimethylaminopropyl)-N′-ethyl-carbodiimide hydrochloride (0.129 g, 0.67 mmol) and phenylacetic acid (0.09 g, 0.67 mmol), followed by stirring overnight. The reaction mixture is diluted with CH2Cl2 and then washed with 1N HCl (5 mL), saturated aqueous NaHCO3 and brine, the organic layer is dried over MgSO4 and concentrated. Purification by flash chromatography (eluent: hexane/AcOEt 25:75, then AcOEt 100%) gives the title compound as colorless oil. MS (LC-MS): 652.4 [M+H]+. tR (HPLC, Nucleosil C18HD column, 5-100% CH3CN/H2O/6 min, 100% CH3CN/1.5 min, CH3CN and H2O containing 0.1% TFA, flow: 1 mL/min): 5.80 min.

reactant | (3R,4R)-3-cyclopropylaminomethyl-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.56 mmol, 0.30 g | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)CN(C(C1=CC(=C(C=C1)OC)OCCCOC)=O)C(C)C)CNC1CC1 | C29H47N3O6
reactant | Et3N | 0.67 mmol, 0.094 mL | CCN(CC)CC | C6H15N
reactant | 1-hydroxy-benzotriazol hydrate | 0.67 mmol, 0.09 g | O.ON1N=NC2=C1C=CC=C2
reactant | N-(3-dimethylaminopropyl)-N′-ethyl-carbodiimide hydrochloride | 0.67 mmol, 0.129 g | Cl.CN(CCCN=C=NCC)C
reactant | phenylacetic acid | 0.67 mmol, 0.09 g | C1(=CC=CC=C1)CC(=O)O | C8H8O2
solvent | CH2Cl2 | 6 mL | C(Cl)Cl | CH2Cl2
product | (3R,4R)-3-[(Cyclopropyl-phenylacetyl-amino)-methyl]-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)CN(C(C1=CC(=C(C=C1)OC)OCCCOC)=O)C(C)C)CN(C(CC1=CC=CC=C1)=O)C1CC1 | C37H53N3O7
